US04289524
Preparation of 3-(5,5,7-TRIMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOL-2-yl)-5-METHYLTETRAHYDRO-1,3,5-OXADIAZIN-4-ONE
Sulfuric acid, 85% concentration, (40 grams) is charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and is cooled to about 5° C. N-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl)-N'-methylthiourea (0.015 mole) and s-trioxane (0.015 mole) are added portionwise, with stirring to the cold surfuric acid. Stirring is continued for a period of about 16 hours at room temperature. The reaction mixture is then diluted 1:1 with water and neutralized with aqueous 40% sodium hydroxide. The neutralized mixture is filtered and the filtered-off solid is washed with 3-100 ml portions of water and air dried to yield the desired product 3-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothizol-2-yl)-5-methyltetrahydro-1,3,5-oxidiazin-4-one.

reactant | N-(5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl)-N'-methylthiourea | 0.015 mole | CC1(CC(C2=C(N=C(S2)NC(=S)NC)C1)C)C | C12H19N3S2
reactant | s-trioxane | 0.015 mole | C1OCOCO1 | C3H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(5,5,7-TRIMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOL-2-yl)-5-METHYLTETRAHYDRO-1,3,5-OXADIAZIN-4-ONE | CC1(CC(C2=C(N=C(S2)N2COCN(C2=O)C)C1)C)C | C14H21N3O2S
